US09422279B2
To a suspension of K2CO3 (350 mg, 2.56 mmol) and 2,6-dihydroxybenzaldehyde (180 mg, 1.28 mmol) in DMF (3 ml) was added a solution of 4-(chloromethyl)-1-methyl-5-phenyl-1,2,3,6-tetrahydropyridine (140 mg, 0.64 mmol) in DMF (4 mL), the mixture was heated at 50° C. for 3 h, cooled to room temperature, and was diluted with EtOAc, organic layer was separated and aqueous layer was extracted with EtOAc. EtOAc layers were combined, washed with Sat. NaHCO3, brine, dried over Na2SO4, and was concentrated to give crude oil, which was purified by column (Hexane/EtOAc=1:1 followed by DCM/MeOH=90:10) to give 2-hydroxy-6-((1-methyl-5-phenyl-1,2,3,6-tetrahydropyridin-4-yl)methoxy)benzaldehyde (55 mg). 1H NMR (400 MHz, CDCl3) δ (ppm) 11.92 (s, 1H), 10.35 (s, 1H), 7.34 (m, 5H), 7.19 (dd, J=8.4, 8.0 Hz, 1H), 6.46 (d, J=8.4 Hz, 1H), 6.16 (d, J=8.0 Hz, 1H), 4.45 (s, 2H), 3.20 (s, 2H), 2.68 (t, J=5.6 Hz, 2H), 2.47 (m, 2H), 2.42 (s, 3H); MS (ESI) m/z 324.3 [M+H]+.

reactant | K2CO3 | 2.56 mmol, 350 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,6-dihydroxybenzaldehyde | 1.28 mmol, 180 mg | OC1=C(C=O)C(=CC=C1)O | C7H6O3
reactant | 4-(chloromethyl)-1-methyl-5-phenyl-1,2,3,6-tetrahydropyridine | 0.64 mmol, 140 mg | ClCC=1CCN(CC1C1=CC=CC=C1)C | C13H16ClN
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-hydroxy-6-((1-methyl-5-phenyl-1,2,3,6-tetrahydropyridin-4-yl)methoxy)benzaldehyde | 55 mg | OC1=C(C=O)C(=CC=C1)OCC=1CCN(CC1C1=CC=CC=C1)C | C20H21NO3
